US05461036
Ethyl bromodifluoroacetate (11.2 g) and tetradecyl aldehyde (3.96 g) were mixed with anhydrous tetrahydrofuran (80 ml ) under argon atmosphere, and the solution was added dropwise to a suspension of zinc powder (4.1 g) and copper bromide (I) (0.41 g) in anhydrous tetrahydrofuran (80 ml ) which was heated to a refluxing temperature. The mixture, after heating under reflux for 5 hours, was cooled and concentrated under reduced pressure. The residue was subjected to chromatography on a silica gel column with eluent systems of n-hexane-ethyl acetate (from 20:1 to 10:1) to give ethyl 2,2-difluoro-3-hydroxyhexadecanoate (1.99 g). After the mixture of ethyl 2,2-difluoro-3-hydroxyhexadecanoate (1.00 g) and 1,1'-thiocarbonyl imidazole (1.18 g) in 1,2-dichloroethane was heated under reflux for 1 hour, it was cooled and concentrated. The residue was subjected to chromatography on a silica gel column with eluent systems of n-hexane-ethyl acetate (from 30:1 to 10:1) to give ethyl 2,2-difluoro-3-imidazoylthiocarbonyloxyhexadecanoate (1.32 g). To a solution of ethyl 2,2-difluoro-3-imidazoylthiocarbonyloxyhexadecanoate (0.86 g) dissolved in toluene (40 ml) under argon atmosphere, which was heated under reflux, was added dropwise a solution of tri-n-butyltin hydride (1.07 ml) in toluene (80 ml). The mixture, after heating under reflux for 2 hours, was concentrated under reduced pressure. The residue was subjected to chromatography on a silica gel column with eluent systems of n-hexane-ethyl acetate (from 300:1 to 50:1) to give ethyl 2,2-difluorohexadecanoate (0.51 g). To a solution of ethyl 2,2-difluorohexadecanoate (300 mg) in N,N-dimethylformamide (30 ml) were added 6 -(4'-N-glycyl-spicaminyl-amino)purine hydrochloride (300 mg) and triethylamine (1.1 ml). The mixture was stirred for 12 hours. After the solvent was evaporated, the residue was subjected to chromatography on a silica gel column with eluent systems of chloroform-methanol-water (from 9:1:0.05 to 7:1:0.05) to give SPK193 in the yield of 41 mg.

reactant | ethyl 2,2-difluoro-3-imidazoylthiocarbonyloxyhexadecanoate | 0.86 g | FC(C(=O)OCC)(C(CCCCCCCCCCCCC)OC(=S)C(=O)C=1NC=CN1)F | C23H36F2N2O4S
reactant | tri-n-butyltin hydride | 1.07 ml | C(CCC)[SnH](CCCC)CCCC
solvent | toluene | 40 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 80 ml | C1(=CC=CC=C1)C | C7H8
product | ethyl 2,2-difluorohexadecanoate | 0.51 g | FC(C(=O)OCC)(CCCCCCCCCCCCCC)F | C18H34F2O2
